US06818772B2
(1S,2R,4S,5R)-N-(7-chloroquinolin-4-yl)-2,5-dimethylcyclohexane-1,4-diamine
A mixture of 4,7-dichloroquinoline (500 mg, 2.5 mmol) and (1S,2R,4S,5R)-2,5-dimethylcyclohexane-1,4-diamine (750 mg, 5.2 mmol) was heated at 150° C. for 5 hours, cooled to room temperature, and flash chromatographed through silica gel column with dichloromethane and methanol (3:1 ratio by vol) to provide the titled compound. MS(ESI(+)Q1MS m/z 304 (M+H)+).

reactant | 4,7-dichloroquinoline | 2.5 mmol, 500 mg | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
reactant | (1S,2R,4S,5R)-2,5-dimethylcyclohexane-1,4-diamine | 5.2 mmol, 750 mg | C[C@H]1[C@H](C[C@H]([C@H](C1)N)C)N | C8H18N2
product | (1S,2R,4S,5R)-N-(7-chloroquinolin-4-yl)-2,5-dimethylcyclohexane-1,4-diamine | ClC1=CC=C2C(=CC=NC2=C1)N[C@@H]1[C@@H](C[C@@H]([C@@H](C1)C)N)C | C17H22ClN3
